US06372917B1
b) 2-Bromo-5-methylbenzenesulfinic acid
37.6 g of sodium sulfite are dissolved in 500 ml of water and heated to 70° C. 62 g of 2-bromo-5-methylbenzenesulfonyl chloride are added in portions at this temperature. A 10 N aqueous NaOH solution is simultaneously added dropwise here so that the pH of the solution is kept between pH=9 and pH=10. The mixture is stirred at 70° C. for 1.5 hours, and the solution is filtered off and subsequently adjusted to pH=0 in an ice bath using a saturated aqeuous HCl solution. The mixture is stirred for 30 minutes, then the product is filtered off, subsequently washed with a little water and dried. 49.6 g of white crystals are obtained,

reactant | sodium sulfite | 37.6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-bromo-5-methylbenzenesulfonyl chloride | 62 g | BrC1=C(C=C(C=C1)C)S(=O)(=O)Cl | C7H6BrClO2S
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 2-Bromo-5-methylbenzenesulfinic acid | 49.6 g | BrC1=C(C=C(C=C1)C)S(=O)O | C7H7BrO2S
